US07932394B2
(Step 2) Production of 2-[5-[4-(ethylsulfonyl)phenoxy]-2-(2-pyridinyl)-1H-benzimidazol-6-yl]ethanol
9.0 mg of the obtained alcohol compound was dissolved in 1 ml of trifluoroacetic acid, and stirred at room temperature for 1.5 hours. The solvent was evaporated away, and the residue was diluted with chloroform and neutralized with aqueous saturated sodium hydrogencarbonate solution. This was extracted with chloroform, and the organic layer was washed with saturated saline water. After dried, the solvent was evaporated away under reduced pressure, to obtain 9.0 mg of a trifluoroacetate. Potassium carbonate was added to a methanol (1 ml) solution of 9.0 mg of the trifluoroacetate, and stirred at room temperature for 30 minutes. This was diluted with chloroform, and aqueous saturated ammonium chloride solution was added to it, extracted with chloroform, and the organic layer was washed with aqueous saturated sodium hydrogencarbonate solution and saturated saline water. After dried, the solvent was evaporated away under reduced pressure, and the residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=10/1) to obtain 6.6 mg of the entitled compound as a colorless amorphous substance.

reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 1 ml | CO | CH4O
reactant | (2Z)-4-[({5-[4-(ethylsulfonyl)phenoxy]-2-(2-pyridinyl)-1H-benzimidazol-6-yl}methyl)amino]-4-oxo-2-butenoic acid (trifluoroacetate) | 9.0 mg | FC(C(=O)O)(F)F.C(C)S(=O)(=O)C1=CC=C(OC2=CC3=C(NC(=N3)C3=NC=CC=C3)C=C2CNC(\C=C/C(=O)O)=O)C=C1
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-[5-[4-(ethylsulfonyl)phenoxy]-2-(2-pyridinyl)-1H-benzimidazol-6-yl]ethanol | 6.6 mg | C(C)S(=O)(=O)C1=CC=C(OC2=CC3=C(NC(=N3)C3=NC=CC=C3)C=C2CCO)C=C1 | C22H21N3O4S
